2150-11-21 07:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Sepsis
   24 Hour Events:
   - The final CT abd/pelvis showd a multiseptated cystic lesion in the
   tail of the pancreas, given appearance without associated duct dilation
   would favor serous cystic pancreatic tumor or IPMN. Radiology recommend
   comparison with priors if available or endoscopic ultrasound.  Tumor
   markers were ordered for the am.
   - CT also showed mild left uretral enhancement with surrounding
   inflammatory change, which could represent ureteritis. Recommend
   followup ureteroscopy after appropriate treatement
   - The patient continued to require levophed, it was weaned down,
   however her SBPs were in the 80's.  She briefly responded to a 500 cc
   bolus of fluid, however she looked volume overloaded, so her levophed
   was increased instead of more fluids for pressure support.
   - Repeat lactates were down from 3.6 --> 2.0 --> 1.0.
   - VBG checked and was 7.30/48/41/25 in the am; repeat in the evening
   was 7.33/43/41/24
   History obtained from Patient, Family / Friend
   Allergies:
   History obtained from Patient, Family / FriendNo Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-11-21**] 04:00 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-11-20**] 10:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-21**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.7
C (98
   HR: 73 (67 - 104) bpm
   BP: 121/64(78) {71/36(50) - 139/69(85)} mmHg
   RR: 24 (18 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 12 (6 - 16)mmHg
   Total In:
                                                                  1,953 mL
                                                                    161 mL
   PO:
                                                                    150 mL
   TF:
   IVF:
                                                                  1,803 mL
                                                                    161 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    770 mL
   Urine:
                                                                  1,350 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    603 mL
                                                                   -609 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), murmur
   at RUSB
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Bronchial: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese, non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to):
   person, place, time and purpose, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   132 K/uL
   10.3 g/dL
   148 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.8 mEq/L
   20 mg/dL
   111 mEq/L
   143 mEq/L
   31.1 %
   10.5 K/uL
        [image002.jpg]
                             [**2150-11-20**]  06:15 AM
                             [**2150-11-20**]  07:26 PM
                             [**2150-11-21**]  04:00 AM
   WBC
   6.6
   10.5
   Hct
   31.0
   31.1
   Plt
   138
   132
   Cr
   1.4
   1.2
   1.1
   Glucose
   271
   154
   148
   Other labs: PT / PTT / INR:13.9/33.4/1.2, ALT / AST:43/35, Alk Phos / T
   Bili:63/0.7, Amylase / Lipase:/40, Differential-Neuts:79.9 %, Band:0.0
   %, Lymph:16.8 %, Mono:2.6 %, Eos:0.4 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.9 g/dL, LDH:194 IU/L, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
 URINARY TRACT INFECTION (UTI)
 HYPOTENSION (NOT SHOCK)
   Assessment and Plan: This is an 86 year old female with PMH of
   uncontrolled DM who presented with one day of LLQ discomfort, n/v/AMS,
   now with hypotension and likely urosepsis. CT showed multiseptated
   cystic lesion in the tail of the pancreas - which is suggestive of
   serous cystic pancreatic tumor or IPMN.  Mild left ureteral enhancement
   was also seen with surrounding inflammatory change that may represent
   ureteritis. Patient continuing to require some pressor support but is
   otherwise stable.
   # Sepsis: Likely urinary source given CT findings and positive UA.  On
   Vanc and Zosyn while cultures are pending
   - IVF/levophed to maintain MAP>65, was weaned off pressor support
   yesterday but pressures were in 80's (asymptomatic) and given her
   hypervolemic status, levophed was restarted
   - Check CVP, maintain at 8-12
   - Continue Vanc/Zosyn for now, cultures pending, will follow up
   # Hypotension: In the setting of infection/sepsis.  Levophed as above.
   Was responsive to 500cc fluid bolus but appeared to be getting volume
   overloaded.
   - Holding lisinopril
   - IVF/pressors as above, will wean as tolerated, cautious fluids
   - Continue to monitor
   # Acute renal failure: Resolving at 1.1 this morning down from 1.4.
   Likely in the setting of hypoperfusion.  Baseline creatinine appears to
   be around 1.1-1.2.
   - Continue to trend
   - IVF as able to maintain perfusion
   - will hold off on sending urine lytes as improving with bp support and
   fluids
   # Pancreatic Mass:  Seen on CT- multiseptated cystic lesion in the tail
   of the pancreas - which is suggestive of serous cystic pancreatic tumor
   or IPMN.  Tumor markers send yesterday
   - f/u tumor markers
   - consider endoscopic ultrasound for better visualization
   # Transaminitis:  Improving, was likely in the setting of hypotension
   - continue to trend
   # Hyperlipidemia: Hold statin for now given transaminitis in the
   setting of hypotension, sepsis
   # Type II DM: On metformin at home, patient reports she has had some
   difficulty transitioning to this medication, unclear why.
   - Hold metformin for now
   - ISS, can add long acting insulin if needed versus insulin gtt
   - QID FS
   # FEN: NPO for now, will advance to clears once off pressors, IVF as
   above, replete lytes as needed
   # PPX: SC heparin, pneumoboots, no indication for ppi at this time
   # Lines: RIJ ([**2150-11-20**]), 2 PIVs
   # COMM: patient, daughter is HCP, [**Name (NI) 575**] [**Telephone/Fax (1) 3207**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2150-11-20**] 08:04 AM
   Multi Lumen - [**2150-11-20**] 08:05 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2150-11-21 12:37:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2150-11-20**] 08:05 AM
   Remains on vasopressor, transiently d/c'd but required resuming.
   Abdominal pain improved.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-11-21**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-11-21**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2150-11-21**] 12:36 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.4
C (97.6
   HR: 73 (67 - 83) bpm
   BP: 96/56(65) {71/19(49) - 139/69(91)} mmHg
   RR: 18 (15 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 19 (3 - 20)mmHg
   Total In:
                                                                  1,953 mL
                                                                    504 mL
   PO:
                                                                    150 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,803 mL
                                                                    264 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                  1,085 mL
   Urine:
                                                                  1,350 mL
                                                                  1,085 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    603 mL
                                                                   -581 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.3 g/dL
   132 K/uL
   148 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.8 mEq/L
   20 mg/dL
   111 mEq/L
   143 mEq/L
   31.1 %
   10.5 K/uL
        [image002.jpg]
                             [**2150-11-20**]  06:15 AM
                             [**2150-11-20**]  07:26 PM
                             [**2150-11-21**]  04:00 AM
   WBC
   6.6
   10.5
   Hct
   31.0
   31.1
   Plt
   138
   132
   Cr
   1.4
   1.2
   1.1
   Glucose
   271
   154
   148
   Other labs: PT / PTT / INR:13.9/33.4/1.2, ALT / AST:43/35, Alk Phos / T
   Bili:63/0.7, Amylase / Lipase:/40, Differential-Neuts:79.9 %, Band:0.0
   %, Lymph:16.8 %, Mono:2.6 %, Eos:0.4 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.9 g/dL, LDH:194 IU/L, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   SEPSIS -- Leukopenia and bandemia suggest infection.  Urinary source
   most likely in context of urinalysis and CT findings (possible
   pyelonephritis) --may have passed stone.   Responding to current
   mamnagement.
   HYPOTENSION -- likely attributed to sepsis.  Improving, working towards
   discontinuing vasopressor.  Continue volume repletion.
   ACUTE RENAL FAILURE -- likely attributed to prerenal sepsis and
   hypovolemia.  Improving.
   ELEVATED LFT-- likely due to sepsis, hypotension.  Monitor LFTs.
   PANCREATIC MASS, CYSTIC
 await final CT [**Location (un) 103**], await markers for
   malignancy, consider GI consult for EDN u/s with bx after stabilizes
   from sepsis.
    HYPERGLYCEMIA -- monitor glucose, maintain <150
   FLUIDS -- replete.  Monitor I/O.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2150-11-20**] 08:04 AM
   Multi Lumen - [**2150-11-20**] 08:05 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2150-11-22 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Sepsis
   24 Hour Events:
   - BP's stable throughout the day
   - Started on regular diet
   - Patient and daughter told about mass in tail of pancreas - will need
   surgery c/s on Sunday to determine if/how to biopsy
   - CA125 was 14 (normal range 0-35), CRP elevated at 43 (expected given
   sepsis)
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-11-21**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-11-21**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, Diarrhea
   Flowsheet Data as of  [**2150-11-22**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.5
C (97.7
   HR: 69 (65 - 83) bpm
   BP: 127/68(82) {91/19(49) - 138/81(91)} mmHg
   RR: 25 (15 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 17 (3 - 28)mmHg
   Total In:
                                                                  1,061 mL
                                                                     70 mL
   PO:
                                                                    580 mL
   TF:
   IVF:
                                                                    481 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  1,690 mL
                                                                    840 mL
   Urine:
                                                                  1,690 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -629 mL
                                                                   -770 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Oriented (to): person, place,
   time and purpose, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   122 K/uL
   10.0 g/dL
   125 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.8 mEq/L
   15 mg/dL
   112 mEq/L
   144 mEq/L
   29.0 %
   8.4 K/uL
        [image002.jpg]
                             [**2150-11-20**]  06:15 AM
                             [**2150-11-20**]  07:26 PM
                             [**2150-11-21**]  04:00 AM
                             [**2150-11-22**]  03:45 AM
   WBC
   6.6
   10.5
   8.4
   Hct
   31.0
   31.1
   29.0
   Plt
   138
   132
   122
   Cr
   1.4
   1.2
   1.1
   0.9
   Glucose
   271
   154
   148
   125
   Other labs: PT / PTT / INR:12.7/30.1/1.1, ALT / AST:43/35, Alk Phos / T
   Bili:63/0.7, Amylase / Lipase:/40, Differential-Neuts:79.9 %, Band:0.0
   %, Lymph:16.8 %, Mono:2.6 %, Eos:0.4 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.9 g/dL, LDH:194 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
 DIARRHEA
 URINARY TRACT INFECTION (UTI)
 HYPOTENSION (NOT SHOCK)
   Assessment and Plan: This is an 86 year old female with PMH of
   uncontrolled DM who presented with one day of LLQ discomfort, n/v/AMS,
   now with hypotension and likely urosepsis. CT showed multiseptated
   cystic lesion in the tail of the pancreas - which is suggestive of
   serous cystic pancreatic tumor or IPMN.  Mild left ureteral enhancement
   was also seen with surrounding inflammatory change that may represent
   ureteritis. Patient has been stable off pressors for 24 hours.
   # Sepsis: Likely urinary source given CT findings and positive UA.  Has
   been on  Vanc and Zosyn while cultures are pending
   -GNR
s grew out on urine cx, will continue Zosyn and d/c vanc,
   sensitivities still pending
   - narrow covereage one speciation returns.
   # Hypotension: In the setting of infection/sepsis.  BP's have been
   stable for 24 hours off pressors.
   - Holding lisinopril, will likely need initiation of bp regimen once on
   floor
   - Continue to monitor
   # Acute renal failure: Resolved at 0.9 this morning down from high 1.4.
   Likely in the setting of hypoperfusion.  Baseline creatinine appears to
   be around 1.1-1.2.
   - Continue to trend
   # Pancreatic Mass:  Seen on CT- multiseptated cystic lesion in the tail
   of the pancreas - which is suggestive of serous cystic pancreatic tumor
   or IPMN.  Patient and daughter aware of mass.
   - CA125 14 (normal range 0-35)
 GI tumor marker
   - send Ca19-9
 pancreatic tumor marker
   - consider endoscopic ultrasound for better visualization
   - surgery c/s for possbile bx vs out patient follow up, will email PCP
   # Diarrhea:  Received bowel regimen for constipation, has had several
   loose BM since then.  Likely from bowel regimen though has been
   hospitalized, low concern for c.diff
   -follow, send [**Doctor Last Name **] studies, c.diff if does not improve today
   -taking good po's, no need for IVF currently, trending lytes
   # Transaminitis:  Improving, was likely in the setting of hypotension
   - continue to trend
   # Hyperlipidemia: Hold statin for now given transaminitis in the
   setting of hypotension, sepsis
   # Type II DM: On metformin at home, patient reports she has had some
   difficulty transitioning to this medication, unclear why.
   - Continue holding metformin for now
   - ISS, can add long acting insulin if needed versus insulin gtt
   - QID FS
   # FEN: Diabetic diet IVF as above, replete lytes as needed
   # PPX: SC heparin, pneumoboots, no indication for ppi at this time
   # Lines: RIJ ([**2150-11-20**]), 2 PIVs
   # COMM: patient, daughter is HCP, [**Name (NI) 575**] [**Telephone/Fax (1) 3207**]
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2150-11-20**] 08:04 AM
   Multi Lumen - [**2150-11-20**] 08:05 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2150-11-22 11:01:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains off vasopressors.
   Offers no new symptoms.
   Up in chair, eating.
 CALLED OUT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-11-22**] 09:54 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-11-22**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2150-11-22**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 71 (64 - 83) bpm
   BP: 135/75(88) {95/37(64) - 138/83(90)} mmHg
   RR: 19 (15 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 20 (12 - 28)mmHg
   Total In:
                                                                  1,061 mL
                                                                    159 mL
   PO:
                                                                    580 mL
   TF:
   IVF:
                                                                    481 mL
                                                                    159 mL
   Blood products:
   Total out:
                                                                  1,690 mL
                                                                  1,030 mL
   Urine:
                                                                  1,690 mL
                                                                  1,030 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -629 mL
                                                                   -872 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.0 g/dL
   122 K/uL
   125 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.8 mEq/L
   15 mg/dL
   112 mEq/L
   144 mEq/L
   29.0 %
   8.4 K/uL
        [image002.jpg]
                             [**2150-11-20**]  06:15 AM
                             [**2150-11-20**]  07:26 PM
                             [**2150-11-21**]  04:00 AM
                             [**2150-11-22**]  03:45 AM
   WBC
   6.6
   10.5
   8.4
   Hct
   31.0
   31.1
   29.0
   Plt
   138
   132
   122
   Cr
   1.4
   1.2
   1.1
   0.9
   Glucose
   271
   154
   148
   125
   Other labs: PT / PTT / INR:12.7/30.1/1.1, ALT / AST:43/35, Alk Phos / T
   Bili:63/0.7, Amylase / Lipase:/40, Differential-Neuts:79.9 %, Band:0.0
   %, Lymph:16.8 %, Mono:2.6 %, Eos:0.4 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.9 g/dL, LDH:194 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   SEPSIS -- Resolved.  Urinary source most likely in context of
   urinalysis and CT findings (possible pyelonephritis) --may have passed
   stone.   Responded to current mamnagement.   Continue antimicrobials.
   HYPOTENSION -- likely attributed to sepsis.  Improved.  Monitor BP,
   maintain MAP >60 mmHg
   ACUTE RENAL FAILURE -- likely attributed to prerenal sepsis and
   hypovolemia.  Improved.
   ELEVATED LFT-- likely due to sepsis, hypotension.  Resolving.
   PANCREATIC MASS, CYSTIC
 cystic lesion in tail of pancreas.  Await
   markers for malignancy, consider GI consult.
    HYPERGLYCEMIA -- monitor glucose, maintain <150
   FLUIDS -- replete.  Monitor I/O.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2150-11-20**] 08:04 AM
   Multi Lumen - [**2150-11-20**] 08:05 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   Patient is critically ill